US03994902
C. 6-Methoxy-3,4-dihydrocarbostyril.
To a solution, prepared by mixing 8.2 g. 6-hydroxy-3,4-dihydrocarbostyril with 50 ml. water containing 2 g. sodium hydroxide, was added dropwise with stirring 8.5 ml. dimethyl sulfate (sp. gr. 1.332). During the course of the addition the resulting mixture was maintained at about pH10 by periodic additions of 10% sodium hydroxide solution. The mixture was stirred for 21/2 hours at room temperature, filtered and the collected solids were washed thoroughly with water to give after recrystallization from methyl alcohol 6.3 g. 6-methoxy-3,4-dihydrocarbostyril; m.p. 142.5°-143.5°C.

reactant | 6-hydroxy-3,4-dihydrocarbostyril | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | pH10 | CC1=CC=C(C=C1)COC(=O)NNC(=O)C2=NC=CN=C2 | C14H14N4O3
solvent | water | 2 g | O | H2O
product | 6-Methoxy-3,4-dihydrocarbostyril | COC=1C=C2CCC(NC2=CC1)=O | C10H11NO2
